US04752326
(a) Preparation of 2-chloro-4-fluorophenyl methanesulfonate
To a mixture of 2-chloro-4-fluorophenol (14.7 g) and methylsulfonyl chloride (11.5 g), under ice-cooling, pyridine (30 g) was added dropwise. The resulting mixture was stirred at room temperature for 30 minutes to complete the methylsulfonylation, after which the pyridine was distilled off under reduced pressure. Toluene and water were added to the residue and the mixture was washed with a dilute aqueous hydrochloric acid, then with water. The toluene layer as separated was dried over anhydrous sodium sulfate and then the toluene was distilled off to afford the titled compound (20.8 g) as a pale yellow oil. After purification by silica gel chromatography, the oil was made colorless with a refractive index nD23 =1.5117.

reactant | 2-chloro-4-fluorophenol | 14.7 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | methylsulfonyl chloride | 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 g | N1=CC=CC=C1 | C5H5N
product | 2-chloro-4-fluorophenyl methanesulfonate | 20.8 g | CS(=O)(=O)OC1=C(C=C(C=C1)F)Cl | C7H6ClFO3S
